US06864025B2
N-Propylphenylcarbazole was prepared from carbazole (82.18 g, 0.49 ml), 1-bromo-3-phenylpropane (100 g, 0.50 mol, commercially available from Aldrich, Milwaukee, Wis.), benzyltriethyl ammonium chloride (5.58 g, 0.025 mol), toluene (400 ml), and 50% aqueous NaOH (200 g) according to the procedure described for N-heptylcarbazole. 108 g of the product was obtained as a white solid (77% yield).

reactant | carbazole | 0.49 ml, 82.18 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1-bromo-3-phenylpropane | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | NaOH | 200 g | [OH-].[Na+]
reactant | N-heptylcarbazole | C(CCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H23N
catalyst | benzyltriethyl ammonium chloride | 0.025 mol, 5.58 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-Propylphenylcarbazole | C(CC)N1C2=CC=CC=C2C=2C=CC=C(C12)C1=CC=CC=C1 | C21H19N
